US06777417B2
{(4-[3-(2-Formyl-4,5,6,7-tetrahydro-1H-indol-3-yl)-propyl]-piperazin-1-yl}-acetic acid ethyl ester (80 mg), prepared as described in example 17, was treated with potassium carbonate (38 mg, 1 mmol) in methanol/water (6/1) at room temperature for over night. The reaction solution was rotary evaporated and the residue was washed with dichloromethane/methanol (10/1) 3 times. The combined organic solution was concentrated till dryness to give {(4-[3-(2-formyl-4,5,6,7-tetrahydro-1H-indol-3-yl)-propyl]-piperazin-1-yl}-acetic acid.

reactant | (4-[3-(2-Formyl-4,5,6,7-tetrahydro-1H-indol-3-yl)-propyl]-piperazin-1-yl}-acetic acid ethyl ester | 80 mg | C(C)OC(CN1CCN(CC1)CCCC1=C(NC=2CCCCC12)C=O)=O | C20H31N3O3
reactant | potassium carbonate | 1 mmol, 38 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol water | CO.O
product | (4-[3-(2-formyl-4,5,6,7-tetrahydro-1H-indol-3-yl)-propyl]-piperazin-1-yl}-acetic acid | C(=O)C=1NC=2CCCCC2C1CCCN1CCN(CC1)CC(=O)O | C18H27N3O3
